US06130339
A solution of 1-(3,4-didecyloxythien-2-yl)-4-nitrobenzene (0.995 g, 1.92 mmol) in 95% ethanol (30 mL) containing platinum on sulfide carbon (30 mg) was added hydrazine hydrate (0.5 mL). The mixture was refluxed for 5 to 10 hours. After cooling, the mixture was filtered and the solvent was evaporated to give a solid. Addition of hexane followed by filtration gave 1-(3,4-didecyloxythien-2-yl)-4-aminobenzene which was subsequently recrystallized from ethanol containing few drops of acetone, 0.855 g. yield=91%, mp=64.5-65.5° C. IR (KBr; cm-1) 3427, 3335, 3116, 2920, 2850, 1624, 1520, 1467, 1372, 1144 and 826. 1H NMR (CDCl3 ; δ in ppm): 0.880 (t, J=7.4 Hz, 6H), 1.381 (m, 28H), 1.700 (m, 4H), 3.947 (m, 4H), 5.992 (s, 1H), 6.674 (d, J=9.5 Hz, 2H) and 7.522 (d, J=9.5 Hz, 2H). 13C NMR (CDCl3 ; δ in ppm): 14.11, 22.69, 25.98, 26.12, 29.17, 29.34, 29.60, 30.09, 30.24, 32.05, 69.75, 72.77, 92.47, 114.96, 123.97, 125.96, 128.06, 141.57, 145.45 and 150.75. MS(EI) m/z (rel int): 487 [(M)+, 40%], 346 [(M+ --C10H21), 8.4%], 207 [(M+ --C20H40), 11%], 178 [(M+ --C21H41O), 8.4%], 150 [(M+ --C22H41O2), 7%] and 136 [(M+ --C23H45NO), 11%]. Anal. Calcd for C30H49NSO2 : C, 73.87; H, 10.13; N, 2.87; S, 6.57. Found: C, 73.99; H, 10.66; N, 2.41; S, 6.32.

reactant | 1-(3,4-didecyloxythien-2-yl)-4-nitrobenzene | 1.92 mmol, 0.995 g | C(CCCCCCCCC)OC1=C(SC=C1OCCCCCCCCCC)C1=CC=C(C=C1)[N+](=O)[O-] | C30H47NO4S
reactant | hydrazine hydrate | 0.5 mL | O.NN
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | platinum | [Pt] | Pt
product | 1-(3,4-didecyloxythien-2-yl)-4-aminobenzene | yield=91% | C(CCCCCCCCC)OC1=C(SC=C1OCCCCCCCCCC)C1=CC=C(C=C1)N | C30H49NO2S
